US04963686
4,4-Dimethyl-2H,4H-isoquinoline-1,3-dione
A solution of 18.7 g. (0.085 mol) 6-amino-3,3-dimethyl-5-nitroindolin-2-one in 200 ml. methanol is hydrogenated at 40° C. in the presence of 1.9 g. of 10% Pd/C. The catalyst is filtered off with suction, the filtrate is evaporated and the residue is crystallised from ethanol. Yield: 15.6 g. (96% of theory); m.p. 245°-247° C.

reactant | 6-amino-3,3-dimethyl-5-nitroindolin-2-one | 0.085 mol | NC1=C(C=C2C(C(NC2=C1)=O)(C)C)[N+](=O)[O-] | C10H11N3O3
reactant | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4,4-Dimethyl-2H,4H-isoquinoline-1,3-dione | CC1(C(NC(C2=CC=CC=C12)=O)=O)C | C11H11NO2
